US06897231B2
A. 3-Phenyl-5-trifluoromethyl-1H-indazole
A solution of 2-fluoro-5-trifluoromethylbenzophenone (0.828 g, 3.09 mmol) in hydrazine was heated at 130° C. for 3 hours. The reaction mixture stood at ambient temperature overnight and gave white needles. It was filtered and washed with hexane to provide the title compound (0.617 g, 76% yield): mp 152° C.; 1H NMR (CDCl3) δ 10.63 (br s, 1H), 8.33 (s, 1H), 7.96 (d, 2H), 7.48-7.67 (m, 5H); EI-MS (m/z) 262 [M]+.

reactant | 2-fluoro-5-trifluoromethylbenzophenone | 3.09 mmol, 0.828 g | FC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)C(F)(F)F | C14H8F4O
reactant | hydrazine | NN | H4N2
product | 3-Phenyl-5-trifluoromethyl-1H-indazole | 0.617 g, 76% yield | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)C(F)(F)F | C14H9F3N2
